US08865752B2
A mixture of methyl 4-(6-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-yl)benzoate (115 mg, 0.265 mmol) and LiOH (31.7 mg, 1.33 mmol) in water (1.5 mL) and dioxane was heated to 50° C. and stirred for 2 h. The solvent was evaporated, water was added and neutralized to pH 7 and evaporated. The residue was dissolved in 35% methanol in DCM, loaded onto a PTLC plate and eluted with 30% methanol in DCM. To afford 4-(6-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-yl)benzoic acid. MS ESI: m/z 421.17 [M+1+].

reactant | methyl 4-(6-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-yl)benzoate | 0.265 mmol, 115 mg | CN(C(C(N1C=NC=C1)C1=CC2=C(N=C(S2)C2=CC=C(C(=O)OC)C=C2)C=C1)CC)C | C24H26N4O2S
reactant | LiOH | 1.33 mmol, 31.7 mg | [Li+].[OH-]
solvent | water | 1.5 mL | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(6-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-yl)benzoic acid | CN(C(C(N1C=NC=C1)C1=CC2=C(N=C(S2)C2=CC=C(C(=O)O)C=C2)C=C1)CC)C | C23H24N4O2S
